US07851465B2
(Z)-7-chloro-3-(2-chlorobenzyl)-5-(4-methoxyphenyl)-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one (230 mg, 0.524 mmol) was dissolved in methylene chloride (5 mL) and cooled to −78° C. under nitrogen. Boron tribromide (54 μL 0.576 mmol) was added dropwise. The mixture turned orange. It was kept at −78° C. for 2 h then allowed to warm to RT. Tlc indicated no reaction after 6 hr. An additional equivalent of boron tribromide was added. The mixture was left stirring overnight at RT. Carefully added water (2 mL) then brine (2 mL). The aqueous layer was extracted twice with methylene chloride. The combined organic layers were dried over magnesium sulfate then filtered and the solvent evaporated. The residue was chromatographed on silica gel eluting with 30-50% ethyl acetate in hexanes to give (Z)-7-chloro-3-(2-chlorobenzyl)-5-(4-hydroxyphenyl)-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one as a yellow solid (18 mg). 1H NMR (300 MHz, CDCl3) δ 3.4 (s, 3H), 3.6-3.8 (m, 2H), 3.8-3.9 (m, 1H), 6.8 (d, 2H), 7.1-7.6 (m, 9H); ESI m/z measured 425.0828 [M+H+], calculated 425.0824.

reactant | (Z)-7-chloro-3-(2-chlorobenzyl)-5-(4-methoxyphenyl)-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one | 0.524 mmol, 230 mg | ClC1=CC\2=C(N(C(C(\N=C2\C2=CC=C(C=C2)OC)CC2=C(C=CC=C2)Cl)=O)C)C=C1 | C24H20Cl2N2O2
reactant | Boron tribromide | 0.576 mmol, 54 μL | B(Br)(Br)Br | BBr3
reactant | water | 2 mL | O | H2O
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | brine | 2 mL | [Cl-].[Na+].O
product | (Z)-7-chloro-3-(2-chlorobenzyl)-5-(4-hydroxyphenyl)-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one | 18 mg | ClC1=CC\2=C(N(C(C(\N=C2\C2=CC=C(C=C2)O)CC2=C(C=CC=C2)Cl)=O)C)C=C1 | C23H18Cl2N2O2
